US07365069B2
N-(3,4-Dimethylphenyl)benzenecarboximidamide
The title compound was prepared from benzonitrile (4.25 g, 41 mmol) and 3,4-dimethylaniline (5 g, 41 mmol) by following the procedure described in preparation 10 (7.2 g, yield 77.8%, purity 99.8% by HPLC). 1H-NMR (CDCl3):δ 2.24-2.25 (d, 6H), 4.84 (bs, 2H, D2O exchangeable), 6.73-6.75 (d, 1H), 6.79 (s, 1H), 7.1-7.11 (d, 1H), 7.41-7.49 (m, 3H), 7.86-7.88 (d, 2H). MS m/z:225.2 (M+).

reactant | benzonitrile | 41 mmol, 4.25 g | C(C1=CC=CC=C1)#N | C7H5N
reactant | 3,4-dimethylaniline | 41 mmol, 5 g | CC=1C=C(N)C=CC1C | C8H11N
product | N-(3,4-Dimethylphenyl)benzenecarboximidamide | yield 77.8% | CC=1C=C(C=CC1C)NC(=N)C1=CC=CC=C1 | C15H16N2
